US08012976B2
Ethyl 2-(4-fluorophenyl)-3-(1-methyl-1H-1,2,3-triazol-4-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
A mixture of (E)-4-(4-fluorobenzylideneamino)isobenzofuran-1(3H)-one (698 mg, 2.7 mmol) and 1-methyl-1H-1,2,3-triazole-4-carbaldehyde (334 mg, 3 mmol) in ethyl propionate (35 mL) was cooled to 0° C. Then a solution of sodium ethanolate in ethanol (sodium (248 mg, 10.8 mmol) in ethanol (15 mL)) was added dropwise. After the addition, the mixture was stirred at room temperature for 4 hr. The mixture was quenched with water (10 mL) and solvent was removed in vacuum. The residue was dissolved in water, and then extracted with ethyl acetate (100 mL×4). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give crude product, which then was purified by chromatography (silica gel, petroleum ether/ethyl acetate=3:1 to 1:1) to give the title compound (426 mg, yield 39%). LC-MS (ESI) m/z: 395 (M+1)+.

reactant | (E)-4-(4-fluorobenzylideneamino)isobenzofuran-1(3H)-one | 2.7 mmol, 698 mg | FC1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1 | C15H10FNO2
reactant | 1-methyl-1H-1,2,3-triazole-4-carbaldehyde | 3 mmol, 334 mg | CN1N=NC(=C1)C=O | C4H5N3O
reactant | sodium ethanolate | C(C)[O-].[Na+]
reactant | ethanol | 10.8 mmol, 15 mL, 248 mg | C(C)O | C2H6O
solvent | ethyl propionate | 35 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 2-(4-fluorophenyl)-3-(1-methyl-1H-1,2,3-triazol-4-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 426 mg, yield 39% | FC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C=1N=NN(C1)C)=O)C(=O)OCC | C21H19FN4O3
